US06452014B1
To a suspension of 5-(4-formylbenzylidene)-2,4-thiazolidinedione (50 mg, 0.21 mmol) and 2-aminothiophenol (0.025 mL, 0.23 mmol) in ethanol (7 mL) was heated to reflux for 10 h. 1,4-Benzoquinone (24 mg, 0.22 mmol) was added, and the mixture was heated additional 1 h. The mixture was cooled to room temperature, ether (3 mL) was added, and the precipitated product was collected by filtration to afford 2-[4-(2,4-dioxothiazolidin-5-ylidenemethyl)phenyl]benzothiazole (53 mg, 75%).

reactant | 5-(4-formylbenzylidene)-2,4-thiazolidinedione | 0.21 mmol, 50 mg | C(=O)C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C11H7NO3S
reactant | 2-aminothiophenol | 0.23 mmol, 0.025 mL | NC1=C(C=CC=C1)S | C6H7NS
reactant | 1,4-Benzoquinone | 0.22 mmol, 24 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | ether | 3 mL | CCOCC | C4H10O
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 2-[4-(2,4-dioxothiazolidin-5-ylidenemethyl)phenyl]benzothiazole | 53 mg, 75% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C17H10N2O2S2
